US06884868B1
To an ice-cooled solution of 5-aminopentan-1-ol (5.0 g) in water (40 ml) and acetone (40 ml) was added triethylamine (8.78 g) and di-tert-butyl dicarbonate (13.75 g), then the solution was stirred at 30° C. for 3 hours. The solvent was evaporated under reduced pressure and extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give a crude yellow oil (12.7 g). The crude oil was purified by silica gel chromatography (50:1-4:1 dichloromethane-methanol) to give 5-hydroxypentylcarbamic acid tert-butyl ester (8.68 g), as a pale yellow oil.

reactant | 5-aminopentan-1-ol | 5.0 g | NCCCCCO | C5H13NO
reactant | triethylamine | 8.78 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 13.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 40 ml | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 5-hydroxypentylcarbamic acid tert-butyl ester | 8.68 g | C(C)(C)(C)OC(NCCCCCO)=O | C10H21NO3
